US08859777B2
Step 1: Preparation of 4-(3-Benzyloxyphenyl)-4-fluoro-1-(3-phenylpropyl)piperidine Hydrochloride.
This material was prepared by the alkylation of 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride with 1-bromo-3-phenylpropane and subsequent salt formation with methanolic hydrogen chloride as described in Step 3 of Example 1 in 43% overall yield.

reactant | 4-(3-benzyloxyphenyl)-4-fluoropiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCNCC1)F
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-Benzyloxyphenyl)-4-fluoro-1-(3-phenylpropyl)piperidine Hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCCC1=CC=CC=C1)F | InChI=1S/C27H30FNO.ClH/c28-27(16-19-29(20-17-27)18-8-13-23-9-3-1-4-10-23)25-14-7-15-26(21-25)30-22-24-11-5-2-6-12-24;/h1-7,9-12,14-15,21H,8,13,16-20,22H2;1H
